US04420487
Preparation of 5-Chloro-2-Phenethyl-6-Sulfamyl-1H-Benzimidazole
To 40 ml of 4 N hydrochloric acid containing 9.4 g of 2-amino-4-chloro-5-sulfamylaniline was added 9.5 g of hydrocinnamic acid and the mixture refluxed for 6 hours. The dark reaction mixture was concentrated in vacuo to a semi-solid which was then added with stirring to 200 ml of 38% ammonium hydroxide. After stirring for thirty minutes, the solid was collected by filtration and then suspended in 200 ml of water at 50° C. Upon stirring for thirty minutes, the product was collected by filtration, dissolved in methanol, and the solution treated with charcoal and boiled for five minutes. The suspension was cooled, filtered through Celite, and concentrated in vacuo to yield pink crystals. Recrystallization from acetonitrile provided 2.6 g of off-white crystals, mp 226°-228°.

reactant | 2-amino-4-chloro-5-sulfamylaniline | NC1=C(N)C=C(C(=C1)Cl)S(N)(=O)=O | C6H8ClN3O2S
reactant | hydrocinnamic acid | 9.5 g | C(CCC1=CC=CC=C1)(=O)O | C9H10O2
solvent | hydrochloric acid | 4 N, 40 ml, 9.4 g | Cl | ClH
product | 5-Chloro-2-Phenethyl-6-Sulfamyl-1H-Benzimidazole | 2.6 g | ClC1=CC2=C(NC(=N2)CCC2=CC=CC=C2)C=C1S(N)(=O)=O | C15H14ClN3O2S
